Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
COPD exacerbation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ COPD p/w shortness of breath. Her symptoms started ___ 
when she felt congested and had a little cough and bad chills. 
Then with progressive SOB, cough, yellow sputum, subjective 
fever. She reports being febrile to 99 at home. Today at ___ O2 
sat 92% and was sent in after 2 nebs. Feels as though a 
bronchial infection is occurring, but not pneumonia (she has had 
both in the past). This is similar to her prior COPD 
exacerbations, of which she has ___ per year, however this is 
her first hospitalization for COPD exacerbation. No sick 
contacts. 

In the ED, initial VS were 98.3 102 114/71 20 94%. Labs were 
remarkable for UA with 45 WBCs/few bacteria, K 3.6, Cr 0.6, mWBC 
8.4, HCT 41. CXR showed evidence of COPD and L apical nodule. 
Received albuterol/ipratropium nebs, 50mg prednisone, 500mg 
azithromycin and was transferred to medicine for further 
management. Transfer VS were 99.0 95 ___ 94% RA.

On arrival to the floor, patient reports that she is no longer 
experiencing fever and chills. Not currently SOB although she 
feels some chest tightness.  She has a slight sore throat 
although this is improved from this AM. Patient is very 
friendly, speaking in full sentences, not on supplemental 
oxygen.

 
Past Medical History:
COPD
MI
Positive PPD
Hyperlipidemia 
Arthritis in bilateral hands 
Coronary artery disease s/p angioplasty with stent 
Bronchiectasis
 
Social History:
___
Family History:
Father:  Cancer 
___ Grandmother:  ___ - Type II
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS - 98.5  119/66  97  22  92% RA
General: Patient is sitting comfortably in bed, friendly and 
alert, no acute distress
HEENT: MMM
Neck: Supple, non-tender, no lymphadenopathy appreciated  
CV: Clear s1 and s2, irregular rhythm, no murmurs
Lungs: Lungs with decreased breath sounds bilaterally, regular 
respiratory rate and effort
Abdomen: Soft, non distended, nontender, bowel sounds present
GU: Deferred 
Ext: Warn and well perfused, no edema
Neuro: Patient with tremor of hands and head
Skin: No rashes 

DISCHARGE PHYSICAL EXAM 
VS - 97.9  118/79  91  18  98% RA
General: Patient is sitting comfortably in bed, friendly and 
alert, no acute distress
HEENT: MMM
Neck: Supple, non-tender, no lymphadenopathy appreciated  
CV: Regular rate and rhythm, clear s1 and s2, no murmurs
Lungs: Lungs with decreased breath sounds bilaterally, regular 
respiratory rate and effort, prolonged expiratory phase 
Abdomen: Soft, non distended, nontender, bowel sounds present
GU: Deferred 
Ext: Warn and well perfused, no edema
Neuro: Patient with tremor of b/l hands and head
Skin: No rashes 

 
Pertinent Results:
ADMISSION LABS:
___ 02:36PM BLOOD WBC-8.4 RBC-4.53 Hgb-13.9 Hct-41.0 MCV-91 
MCH-30.7 MCHC-33.9 RDW-12.2 Plt ___
___ 02:36PM BLOOD Neuts-79.1* Lymphs-11.3* Monos-7.5 
Eos-1.4 Baso-0.7
___ 02:36PM BLOOD Plt ___
___ 02:36PM BLOOD Glucose-159* UreaN-17 Creat-0.6 Na-142 
K-3.6 Cl-100 HCO3-32 AnGap-14

IMAGING:
CXR ___
PA and lateral views of the chest.  The lungs are hyperinflated. 
 There is asymmetric left apical pulmonary opacity worrisome for 
underlying nodule.  Surgical chain sutures seen in the right mid 
lung.  There is also subtle increased opacity projecting over 
the right breast shadow, anteriorly on the lateral view.  The 
cardiomediastinal silhouette is within normal limits.  No acute 
osseous abnormality is identified. 
  
IMPRESSION:   
Findings compatible with COPD.  Subtle asymmetric right basilar 
opacity potentially in the middle lobe which could represent 
atelectasis or scarring however infection cannot be totally 
excluded. 
  
Findings worrisome for left apical pulmonary nodule for which 
dedicated nonurgent chest CT is suggested.  

DISCHARGE LABS:
___ 07:55AM BLOOD WBC-8.2 RBC-4.80 Hgb-14.7 Hct-43.1 MCV-90 
MCH-30.6 MCHC-34.1 RDW-12.2 Plt ___
___ 07:55AM BLOOD Plt ___
___ 07:55AM BLOOD Glucose-113* UreaN-14 Creat-0.6 Na-144 
K-4.0 Cl-101 HCO3-30 AnGap-17

MICROBIOLOGY:
___ URINE CULTURES: no growth (final)
___ BLOOD CULTURES: no growth (final)

 
Brief Hospital Course:
___ year old woman with a history of COPD, bronchiectasis, CAD 
s/p MI with stent, among other medical issues who presented with 
shortness of breath and increased cough and sputum production 
consistent with her prior COPD flares.

ACTIVE DIAGNOSES:

# COPD exacerbation: Patient presented with symptoms similar to 
her prior COPD exacerbations. Cannot exclude infectious etiology 
however white count non-elevated, CXR consistent w/COPD. 
Throughout the admission the patient has not needed supplemental 
O2. She was treated with steroids, azithromycin, and PRN nebs. 
Azithromycin was transitioned to doxycycline prior to discharge. 
She remained stable with no worsening of symptoms. At time of 
discharge, she is able to ambulate safely with a O2 sat in mid 
90's. As her symptoms were not progressing and she was 
saturating well on room air, we discharged her to follow-up with 
PCP for further care. Of note, she asked us to provide her with 
home nebulizer machine. We did not feel that was necessary. We 
provided her with prescription for MDI plus spacer and urged her 
to speak with her PCP if she believes she would benefit from 
home nebulizer machine. 

# Nausea: Patient complained of some morning nausea, with no 
clear etiology. She noted that she would feel better after 
eating or having her morning coffee. She received IV zofran PRN 
for the nausea. No emesis on this admission. It had resolved by 
time of discharge.

CHRONIC DIAGNOSES: 

# CAD: Her home medications of metoprolol succinate and aspirin 
162 daily were continued continued on this stay. She did not 
have any chest pain or symptoms suggestive of cardiac origin for 
her shortness of breath or nausea.

# Lung nodule: Patient has known lung nodules which have been 
documented on prior CT scan. Nodule found incidentally on CXR, 
and per report of location seems that it may be consistent with 
location of previously known nodules. We recommended that this 
be followed up on an outpatient basis. Radiology recommended a 
non-urgent CT, however they may not have been aware that pt 
already has known lung lesions being followed by serial CTs. As 
above, patient has a significant smoking history.

# Tremor: Pt with resting tremor in b/l hands and head, she has 
not noticed it before. Husband has noticed and says it is not 
new. Patient was surprised when it was brought up, however it 
may be exacerbated by nebs and not as prominent at baseline. 
Most likely essential tremor, however we recommend outpatient 
follow-up by PCP for further evaluation.  

TRANSITIONAL ISSUES:

# We recommend continued outpatient follow-up of lung lesions

# Tremor is likely benign, however may need to be evaluated 
further
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
2. Lorazepam 1 mg PO HS:PRN Insomnia 
3. ipratropium-albuterol ___ mcg/actuation Inhalation 4 times 
daily PRN SOB/wheezing 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Atorvastatin 40 mg PO DAILY 
6. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
Inhalation 2 puffs twice daily 
7. Aspirin 162 mg PO DAILY 
8. Nitroglycerin SL 0.3 mg SL PRN chest pain 

 
Discharge Medications:
1. PredniSONE 40 mg PO DAILY Duration: 3 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*6 
Tablet Refills:*0
2. Aspirin 162 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
5. Lorazepam 1 mg PO HS:PRN Insomnia 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. ipratropium-albuterol ___ mcg/actuation Inhalation 4 times 
daily PRN SOB/wheezing 
8. Nitroglycerin SL 0.3 mg SL PRN chest pain 
9. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
Inhalation 2 puffs twice daily 
10. Doxycycline Hyclate 100 mg PO Q12H Duration: 3 Days 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth every 
twelve (12) hours Disp #*6 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
COPD exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___. You were admitted 
to the hospital for evaluation and management of your COPD 
exacerbation, after you presented to your Primary Care Physician 
with increased shortness of breath and productive cough.  While 
here, you were given antibiotics, steroids, and nebulizer 
treatments and monitored overnight. You have not needed any 
supplemental oxygen, and are walking around without significant 
shortness of breath. 

As your oxygen levels have been adequate and your symptoms have 
not worsened, you are being discharged to continue your recovery 
at home. We are discharging you with 3 days of antibiotics and 
steroids to continue at home. 

Thank you for allowing us to participate in your care.
 
Followup Instructions:
___